US06114175
5-Iodosalicylic acid (Aldrich Chemical Company, Milwaukee, Wis.) is converted to the methyl ester by reaction with methanol, trimethyl orthoformate and sulfuric acid. The 5-iodosalicylic acid methyl ester thus obtained is reacted with (trimethylsilyl)acetylene (Aldrich Chemical Company, Milwaukee, Wis.) in the presence of palladium. The trimethylsilyl group is removed and two equivalents of the resultant 5-acetylenylsalicylic acid methyl ester is reacted with 4,4'-dibromobiphenyl (Aldrich Chemical Company, Milwaukee, Wis.) in the presence of palladium as above. The resultant alkynyl analogue of Chrysamine G, 4,4'-bis (3-methoxycarbonyl-4-hydroxyphenylacetylenyl)-biphenyl is prepared by hydrolysis of the ester as described above.

reactant | 5-Iodosalicylic acid | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 5-iodosalicylic acid methyl ester | COC(C=1C(O)=CC=C(C1)I)=O | C8H7IO3
